US07919508B2
Combine [(phenylamino)-4-pyridinylmethyl]phosphonic acid diphenyl ester (29.4 g, 0.071 mol), 3-methyl-2-isopropoxybenzaldehyde (13.0 g, 0.073 mol) and Cs2CO3 (29.9 g, 0.092 mol) in THF (225 mL) and IPA (75 mL). Stir the mixture under nitrogen for 48 hr before adding to 3M aqueous HCl under nitrogen. Allowed the red solution to stand for 3 hr during which time the red color fades to yellow. Cool the solution was to 10° before neutralizing to pH 12 by the slow addition of 50% aqueous NaOH. Extract the mixture with EtOAc and then wash the organic layer with H2O. Dry over MgSO4, and evaporate the solvent to give a residue. Purify the residue by chromatography over SiO2 using EtOAc:heptane (1:1). Receive fractions containing pure product and some fractions containing a mixture of product and the aniline Schiff's base of the product. Dissolve the latter mixture in 3M aqueous HCl and allow to stand for 6 hr, at which time the red color discharges. Neutralize the acid solution with NaHCO3 and extract with EtOAc, wash the extract with H2O and dry over MgSO4. Evaporate the solvent to obtain 4.6 g of 2-(2-isopropoxy-3-methylphenyl)-1-(4-pyridinyl)ethanone which when blended with the pure product from the column gives a total yield of 16.9 g (89%); 1H-NMR (CDCl3) δ 8.8-6.9 (m, 7H), 4.3 (s, 2H), 4.2 (m, 1H), 2.3 (s, 3H), 1.3 (d, 6H).

reactant | [(phenylamino)-4-pyridinylmethyl]phosphonic acid diphenyl ester | 0.071 mol, 29.4 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)C(C1=CC=NC=C1)NC1=CC=CC=C1 | C24H21N2O3P
reactant | 3-methyl-2-isopropoxybenzaldehyde | 0.073 mol, 13.0 g | CC=1C(=C(C=O)C=CC1)OC(C)C | C11H14O2
reactant | Cs2CO3 | 0.092 mol, 29.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 3M | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | THF | 225 mL | C1CCOC1 | C4H8O
solvent | IPA | 75 mL | CC(C)O | C3H8O
product | 2-(2-isopropoxy-3-methylphenyl)-1-(4-pyridinyl)ethanone | 4.6 g | C(C)(C)OC1=C(C=CC=C1C)CC(=O)C1=CC=NC=C1 | C17H19NO2
